US04200641
A mixture of 2.7 parts of 1,3-dihydro-1-(3-hydroxypropyl)-2H-benzimidazol-2-one methanesulfonate, 2.88 parts of 1-[bis(p-fluorophenyl)methyl]piperazine, 2.66 parts of sodium carbonate and 100 parts of 4-methyl-2-pentanone is stirred and refluxed overnight. After cooling, water is added and the layers are separated. The organic phase is dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and 5% of methanol as eluent. The pure fractions are collected and the eluent is evaporated. The residue is crystallized from 2-propanol, yielding 1-[3-{4-[bis(4-fluorophenyl)methyl]-1-piperazinyl}propyl]-1,3-dihydro-2H-benzimidazol-2-one; mp. 197.3° C.

reactant | 1,3-dihydro-1-(3-hydroxypropyl)-2H-benzimidazol-2-one methanesulfonate | CS(=O)(=O)O.OCCCN1C(NC2=C1C=CC=C2)=O
reactant | 1-[bis(p-fluorophenyl)methyl]piperazine | FC1=CC=C(C=C1)C(N1CCNCC1)C1=CC=C(C=C1)F | C17H18F2N2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
solvent | water | O | H2O
product | 1-[3-{4-[bis(4-fluorophenyl)methyl]-1-piperazinyl}propyl]-1,3-dihydro-2H-benzimidazol-2-one | FC1=CC=C(C=C1)C(N1CCN(CC1)CCCN1C(NC2=C1C=CC=C2)=O)C2=CC=C(C=C2)F | C27H28F2N4O
